Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
flecainide
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
___ ___

 
History of Present Illness:
Mr. ___ is a ___ y/o male with a history of persistent afib 
s/p DCCV (___) and HTN who presents with a syncopal 
episode. 

The patient has been followed by cardiology for atrial 
fibrillation, initially diagnosed in ___. He underwent 
successful cardioversion on ___ and remained in sinus rhythm 
while taking metoprolol and flecainide. He was seen by Dr. 
___ in ___, at which time both medications were stopped. 
He continued to due to well until ___ when he had recurrence 
of his atrial fibrillation. He was placed back on metoprolol 
12.5 mg nightly and flecainide 100 mg BID in ___ and 
underwent successful cardioversion on ___. 

He presents today following a syncopal episode around noon on 
___. The patient was undergoing strenuous exercise while 
canoeing. After completely his exercise, he tripped while 
exiting the canoe and then had a witnessed loss of consciousness 
that lasted several seconds. He was noted to be diaphoretic, 
pale and disoriented following the event. EMS found the patient 
to be in a
wide-complex tachycardia felt to be consistent with a 
ventricular tachycardia and took the patient to ___, 
where he spontaneously converted to atrial fibrillation. Labs 
were notable for negative troponin, CK 108, TSH 6, free T4 1.35, 
and CT head was negative. He remained HD stable throughout. 
Decision made to transfer to ___ for further care. Of note, 
the patient was
wearing a ZioPatch monitor during the event. The ZioPatch was 
initiated following a recent pre syncopal episode a week ago 
that occurred while the patient was exercising on the 
elliptical.  

In the ED, initial VS were:  Temp 97.2F BP 120/86 HR 78 RR 16 
100% on RA 

Exam notable for: Irregularly irregular rhythm, CTAB. 

ECG: Rate 72. Atrial fibrillation. Normal axis. Normal 
intervals. T wave inversions I, V4-V6. No ST changes. 

Labs showed: BUN 21, Cr 1.3, HCO3 21, WBC 7.7, Trop-T <0.01 

Consults:  
- Cardiology: Rhythm c/w regular WCT with RBBB morphology and 
LAD. Consistent with VT but afib w/ aberrancy cannot be ruled 
out. Recommended admission with EP consult and TTE. 

Transfer VS were:  Temp 97.8F BP 135/86 HR 64 RR 14 97% on RA 

On arrival to the floor, patient reports feeling well except for 
fatigue and a slight headache. No chest pain, shortness of 
breath, palpitations. He has been taking his medications daily 
as prescribed.  No recent illness, including fever, chills, 
dysuria, hematuria or diarrhea. Only other symptom has been 
feeling more slow with walking up hills. No shortness of breath, 
new ___ edema,
orthopnea or PND.

 
Past Medical History:
- Atrial fibrillation
- DVT (___)
- Hypertension
- Erectile dysfunction
- External hemorrhoids 
- Salivary gland mucocele 
- Quadriceps tear s/p repair (___)
- Cataract surgery OD ___ 
 
Social History:
___
Family History:
Father had lung cancer, died at age ___. Mother had dementia and 
died at ___. No family history of early MI, arrhythmia, 
cardiomyopathies, or sudden cardiac death.  
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================

VS: Temp 97.8 BP 121/78 HR 76 RR 16 97% on RA  
GENERAL: WDWN male in NAD. Lying comfortably in bed.  
HEENT: Scratch over nasal bridge. PERRL. Oropharynx clear. 
NECK: supple, no LAD. JVP not elevated. 
CV: Irregularly irregularly rhythm, normal rate, with normal 
S1/S2. No murmurs, gallops, or rubs  appreciated. 
PULM: Normal respiratory effort. CTAB without wheezes, rales or 
rhonchi. 
GI: Soft, NT/ND, normoactive BS. No guarding or masses.   
EXTREMITIES: Warm, well perfused. Trace RLE edema, none on the 
left. No erythema. 
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert and interactive. CN II-XII grossly intact. ___ 
strength   
DERM: warm and well perfused, no excoriations or lesions, no 
rashes 

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================

VS: 98.3, BP 119/73, HR 75, RR 16, O2sat 97%

Telemetry: Afib on morning telemetry before ___ 
GENERAL: WDWN male in NAD. Lying comfortably in bed eating 
breakfast
HEENT: Scratch over nasal bridge and on forehead. JVP not 
elevated, prominent EJ pulsations
CV: Regular rate and rhythm with normal S1/S2. No murmurs,
gallops, or rubs  appreciated. Zio patch in place. 
PULM: Normal respiratory effort. CTAB without wheezes, rales or 
rhonchi. 
GI: Soft, NT/ND, +BS. No guarding or rebound.   
EXTREMITIES: Warm, well perfused. Trace RLE edema (chronic per 
patient), none on the left. No erythema. 
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert and interactive. CN II-XII grossly intact.  
 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ 07:22PM BLOOD WBC-7.7 RBC-4.46* Hgb-13.9 Hct-41.7 
MCV-94 MCH-31.2 MCHC-33.3 RDW-14.2 RDWSD-48.4* Plt ___
___ 07:22PM BLOOD Neuts-52.5 ___ Monos-9.8 Eos-0.5* 
Baso-0.4 Im ___ AbsNeut-4.03 AbsLymp-2.79 AbsMono-0.75 
AbsEos-0.04 AbsBaso-0.03
___ 07:22PM BLOOD ___ PTT-31.1 ___
___ 07:22PM BLOOD Glucose-88 UreaN-21* Creat-1.3* Na-143 
K-4.6 Cl-109* HCO3-21* AnGap-13
___ 07:22PM BLOOD cTropnT-<0.01

======
MICRO:
======

___ URINE CULTURE - <10,000 CFU/ml

================
IMAGING/REPORTS:
================

___ TTE
The left atrial volume index is SEVERELY increased. The right 
atrium is moderately enlarged. The estimated right atrial 
pressure is >15mmHg. There is normal left ventricular wall 
thickness with a normal cavity size. There is normal regional 
and global left ventricular systolic function. The visually 
estimated left ventricular ejection fraction is 65-100%. Left 
ventricular cardiac index is normal (>2.5 L/min/m2). There is no 
resting left ventricular outflow tract gradient. No ventricular 
septal defect is seen. Mildly dilated right ventricular cavity 
with normal free wall motion. The aortic sinus is mildly dilated 
with normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. There is no
evidence for an aortic arch coarctation. The aortic valve 
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is trace aortic regurgitation. The mitral 
valve leaflets are mildly thickened
with no mitral valve prolapse. There is mild [1+] mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion.

===============
DISCHARGE LABS:
===============

___ 06:10AM BLOOD WBC-6.8 RBC-4.34* Hgb-13.8 Hct-40.9 
MCV-94 MCH-31.8 MCHC-33.7 RDW-14.2 RDWSD-48.9* Plt ___
___ 06:10AM BLOOD Glucose-94 UreaN-15 Creat-1.2 Na-141 
K-4.7 Cl-106 HCO3-25 AnGap-10
___ 06:10AM BLOOD Calcium-8.8 Phos-3.2 Mg-1.___ with a history of persistent atrial fibrillation, status 
post DCCV (___), CKD, and HTN, who presented with a 
syncopal episode after canoeing outside in the heat, found by 
EMS to be in a new wide complex tachycardia and admitted for 
evaluation.

====================
ACUTE/ACTIVE ISSUES:
====================

# Syncope
# Wide complex tachycardia, likely organized 1:1 atrial flutter
# Flecainide toxicity
# Atrial fibrillation
Patient with a history of atrial fibrillation, status post two 
successful DCCV with subsequent conversion to atrial 
fibrillation. Presented following a syncopal episode on ___ 
after an afternoon out canoeing. Patient had a history of a 
pre-syncopal event the week before admission for which he was 
started on a Ziopatch for ongoing monitoring. Found to be in WCT 
by EMS, concerning for VT. Spontaneously converted to atrial 
fibrillation, which persisted upon transfer to ___ from 
___ ED. Review of the EMS strip showed rhythm most 
consistent with organized atrial flutter with 1:1 conduction, 
likely secondary to flecainide toxicity. Given concern for 
relation of syncope to arrhythmia, flecainide was discontinued. 
Patient underwent successful ___ with 250J and was in sinus 
rhythm upon discharge. Plan is for catheter ablation, which will 
be scheduled with the patient directly. Discharge medications; 
metoprolol succinate 25mg daily and dabigatran 150mg BID. 
Patient should have Ziopatch removed upon completion of testing 
and sent for analysis. 

======================
CHRONIC/STABLE ISSUES: 
======================

# Hypertension
BP was stable on home regimen. Metoprolol dosing adjusted to 
25mg daily upon discharge. 

# CKD
Creatinine 1.3 on admission, appeared within range of baseline 
in 1.1-1.3 (GFR 55-65). 

====================
TRANSITIONAL ISSUES:
====================

MEDICATION CHANGES:
[] changed metoprolol succinate to 25mg daily
[] stopped flecainide 100mg Q12H

[] AF: EP will schedule catheter ablation with patient early 
next week
[] FLECAINIDE: patient should not be prescribed this medication 
in the future given adverse effect 
[] ZIOPATCH: should be removed and sent for analysis upon 
completion of monitoring 
[] AORTIC SINUS DILATION: TTE demonstrated increase in aortic 
sinus size from 39mm to 42mm

==================================================
# CODE STATUS: Full
# CONTACT: ___, ___/wife, ___
 
Medications on Admission:
1. Dabigatran Etexilate 150 mg PO BID 
2. Metoprolol Succinate XL 12.5 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Flecainide Acetate 100 mg PO Q12H 
5. Vitamin B Complex 1 CAP PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
2.  Dabigatran Etexilate 150 mg PO BID  
3.  Vitamin B Complex 1 CAP PO DAILY  
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
==================
PRIMARY DIAGNOSES:
==================

Syncope, secondary to wide complex tachycardia, likely organized 
1:1 atrial flutter in the setting of flecainide toxicity
Atrial fibrillation, status post direct current cardioversion

====================
SECONDARY DIAGNOSES:
====================

Hypertension 
Chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

WHY YOU CAME TO THE HOSPITAL  
You were admitted because you had a fainting episode and the 
emergency responders observed a heart rhythm that was 
concerning. 
  
WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL
- You were found to be in atrial fibrillation
- Our electrophysiology doctors were ___ and ___ the 
heart rhythm caused your fainting
- This was likely secondary to flecainide
- You were cardioverted with resolution of your atrial 
fibrillation
- Dr. ___ will contact you with a date for ablation to 
prevent future atrial fibrillation 

WHAT YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL
- You need to follow-up with your PCP as arranged
- You also need to follow-up with Dr. ___ as arranged
- You should receive a phone call from the EP team to schedule 
your ablation next week
- It is important you continue to take all your medications as 
prescribed
- Pay close attention to your symptoms and return if you feel 
faint or lightheaded

It was a pleasure taking care of you!

Your ___ Healthcare Team 

MEDICATION CHANGES:
[] changed metoprolol succinate to 25mg daily
[] stopped flecainide 100mg Q12H
 
Followup Instructions:
___